US04070539
To a solution of 2,3-dichloro-4-(2-methylenebutyryl)-phenol (4.90 g., 0.02 mole) in dimethylformamide (20 ml.) is added potassium carbonate (6.08 g., 0.044 mole) and ethyl 2-bromopropionate (7.97 g., 0.044 mole). The reaction mixture is heated at 55°-60° C. for one hour with stirring. The reaction mixture is cooled. Water (50 ml.) is added and the resulting oil is extracted with ether (3 × 100 ml.). The combined ether extracts are dried over anhydrous magnesium sulfate, filtered and the ether is evaporated under reduced pressure to afford ethyl 2-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]propionate. The ester is dissolved in ethanol (75 ml.) and treated with a solution of sodium bicarbonate (5.04 g., 0.06 mole) in water (150 ml.). The mixture is heated on a steam bath with stirring for 5 hours and then concentrated under reduced pressure to a volume of 50 ml. Water (50 ml.) is added and the solution is acidified to a pH of 4 with hydrochloric acid (6N). The resulting oil is extracted with ether (3 × 100 ml.) and the combined extracts are dried over anhydrous magnesium sulfate. The ether is evaporated under reduced pressure to afford 6.34 g. (100%) of a white, waxy solid. Recrystallization from cyclohexane affords 5 g. (79%) of crude product, m.p. 115°-119° C. Further purification by recrystallization from butyl chloride affords substantially pure 2-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]propionic acid, m.p., 122.5°-123.5° C.

reactant | 2,3-dichloro-4-(2-methylenebutyryl)-phenol | 0.02 mole, 4.90 g | ClC1=C(C=CC(=C1Cl)C(C(CC)=C)=O)O | C11H10Cl2O2
reactant | potassium carbonate | 0.044 mole, 6.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.044 mole, 7.97 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | Water | 50 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]propionate | ClC1=C(OC(C(=O)OCC)C)C=CC(=C1Cl)C(C(CC)=C)=O | C16H18Cl2O4
